* PSpice Model Editor - Version 16.2.0
*$
* LM5007
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM5007
* Date: 7JAN2013
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.s003
* EVM Order Number: AN-1298
* EVM Users Guide: SNVA073, 02MAY2004
* Datasheet: SNVS252E, 22APR2011
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT LM5007_TRANS VIN FB SW BST VCC RCL SHDN RTN
*** INTERNAL 7V REFERENCE ***
EUVLO 37 RTN Value = { IF(  V(VIN) > 8.2,7.6, 
+ IF( V(VIN)-0.6 < 0 ,0, V(VIN)-0.6 ) ) }
D4 VCC BST _D
.MODEL _D D
D6 37 46 _D6_MOD
D7 VCC 46 _D
I3 46 VCC DC=10M
*** VCC UVLO ***
S7 VSD UVLO VCC RTN S7_MOD
.MODEL S7_MOD VSWITCH VT=6.245 VH=85M
R28 UVLO RTN 1MEG
*** GATE UVLO ***
V61 42 RTN DC=5
S4 42 GATEUVLO BST SW S4_MOD
.MODEL S4_MOD VSWITCH VT=4.415 VH=185M
R18 GATEUVLO RTN 1MEG
*** OUTPUT OVERVOLTAGE ***
EOVER 43 RTN Value = {IF(V(FB) > 2.875,1,0)}
*** SHUTDOWN FEATURE ***
V62 38 RTN DC=5
RSDDELAY SHDN SHDND 100K
CSDDELAY SHDND RTN 20P
S1 38 VSD SHDND RTN S1_MOD
.MODEL S1_MOD VSWITCH VT=0.675 VH=25M
R8 VSD RTN 1MEG
G6 RTN 17 Value = { IF (V(VSD) < 1, 0, I(V18)/3)}
D16 17 REF _D
X4 17 13 Q RTN SSWITCH
X12 13 RTN D RTN SSWITCH
G12 RTN 13 Value= { IF (V(VSD) < 1,0,0.67U)}
C15 13 RTN 4P
G13 RTN 31 Value= { IF (V(VSD) < 1,0,28U)}
D15 31 REF _D
X16 31 13 QB RTN SSWITCH
D1 13 REF _D
X18 13 REF 20 COMPWDEL_1
G5 RTN 14 Value= { IF(V(VSD)<1,0,I(V17)/11.5)}
X15 14 RTN 11 RTN SSWITCH
C14 14 RTN 4P
V17 SHDN 49
D8 RTN 49 _D8_MOD
.MODEL _D8_MOD D BV=1 IBV=10U
X17 14 REF 18 COMPWDEL_0
*** COMPARATOR ***
XREGCOMP REF BUFFB 28 COMPWDEL_2
VREF REF RTN DC=2.46
E1 BUFFB RTN FB RTN 1
V18 BUFFB RCL
X4X 28 20 23 AND2BX1
X9 18 Q 43 8 OR3BX9
X10 8 47 DELAY
X21 23 47 D 11 LATCHX3
** CURRENT LIMIT SENSE ***
VSENSE VIN 29 0
H1 21 RTN VSENSE 1
V14 22 RTN DC=0.725
RCLDELAY 45 7 100
CCLDELAY 7 RTN 0.4N
XCLCOMP 21 22 45 COMPWDEL_2  
XCLLATCH 7 20 Q QB LATCH
*** DRIVER STAGE ***
D10 35 40 _D6_MOD
.MODEL _D6_MOD D RS=65
Q1 BST 40 35 _QMOD
.MODEL _QMOD NPN
ED 40 SW VALUE { IF (V(UVLO) > 1 & V(GATEUVLO) > 1 
+ & V(D) > 1 , V(BST,SW) , -1) }
*** OUTPUT SWITCH ***
X8 29 35 SW NATIONALFET1AX8
.ENDS
*$
.SUBCKT COMPWDEL_1 1 2 3 PARAMS: TD=25N
*               + - OUT
E1 4 0 Value= {IF( V(1) > V(2),5,0)}
T1 4 0 5 0 Z0=1 TD={TD}
R1 5 0 1
E2 3 0 Value= { IF(V(5) < 0,0,V(5))}
.ENDS
*$
.SUBCKT COMPWDEL_0 1 2 3 PARAMS: TD=25N
*               + - OUT
EB1 4 0 Value = { IF( V(1) > V(2),5,0 ) }
T1 4 0 5 0 Z0=1 TD={TD}
R1 5 0 1
EB2 3 0 Value = { IF(V(5) < 0, 0, V(5))}
.ENDS
*$
.SUBCKT NATIONALFET1AX8 10 20 40
*** FULL POWER MOSFET MODEL 100V 1A 0.7OHM
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.331
RS  40  3  18.5M
RG  20  2  1
CGS  2  3  112.2P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  0.202N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
*DSD  3 10  DSUB
*LS  30 40  .1N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=80M ETA=2M VTO=1.11 KP=1.39)
.MODEL DCGD D (CJO=0.202N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=11.62N N=1.5 RS=268M BV=100 CJO=0.242N VJ=0.8 M=0.42 TT=45N)
.MODEL DLIM D (IS=100U)
.ENDS
*$
.SUBCKT LATCH 6 8 2 1
*             S R Q Q\
EQB   10 0 Value={ IF( V(8)<800M & V(2)>800M, 100.000M, 5.0000 )}
EQ    20 0 Value={ IF( V(6)<800M & V(1)>800M, 100.000M, 5.0000 )}
RD1   10 1 100
CD1   1 0 10P IC=0.0000
RD2   20 2 10
CD2   2 0 1P IC=00.000M
.ENDS
*$
.SUBCKT COMPWDEL_2 1 2 3 PARAMS: TD=50N
*               + - OUT
EB1 4 0 Value={ IF( V(1) > V(2) , 5,0)}
T1 4 0 5 0 Z0=1 TD={TD}
R1 5 0 1
EB2 3 0 Value={ IF(V(5) < 0 , 0, V(5) )}
.ENDS
*$
.SUBCKT LATCHX3 6 8 2 1
*             S R Q Q\
EQB    10 0 Value={ IF( V(8)<800M & V(2)>800M ,100.000M , 5.0000)}
EQ     20 0 Value={ IF( V(6)<800M & V(1)>800M ,100.000M, 5.0000)}
RD1   10 1 100
CD1   1 0 10P IC=0.0000
RD2   20 2 10
CD2   2 0 1P IC=00.000M
.ENDS
*$
.SUBCKT OR3BX9 1 2 3 4 PARAMS: VDD=5.0 VSS=0 VTHRESH=2.5
*           A B C OUT
EB1 5 0 Value={ IF ( (V(1)> {VTHRESH})| (V(2)> {VTHRESH}) | (V(3) > {VTHRESH}), {VDD}, {VSS} )}
RD 5 4 1
CD 4 0 .087NF
.ENDS
*$
.SUBCKT DELAY 1 3
* PASS TD=0-90% RISE/FALL TIME IN SEC
RIN 1 2 1E4
C1 2 0 17.391P
E1 3 0 2 0 1
.ENDS
*$
.SUBCKT SSWITCH 1 2 3 4 PARAMS: RON=100M ROFF=10MEG VON=2 VOFF=0
*CONNECTIONS    + - NC+ NC-
*PARAmETERS: RON ON RESISTANCE IN OHmS, ROFF OFF RESISTANCE IN OHmS
* VON ON CURRENT IN AmPS, VOFF OFF CURRENT IN AmPS
* IF V(3,4) > VON THEN RSWITCH=RON, IF V(3,4) < VOFF THEN RSWITCH=ROFF, ELSE
* RSWITCH WILL SmOOTHLY TRANSISTION BETWEEN THE ON AND OFF STATES
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON={RON} ROFF={ROFF} VON={VON}  VOFF={VOFF}
.ENDS
*$
.SUBCKT AND2BX1 1 2 3 PARAMS: VDD=5 VSS=0 VTHRESH=2.5
*            A B OUT
EB1 4 0 Value={ IF( V(1)> {VTHRESH} & V(2) > {VTHRESH}, {VDD}, {VSS} )}
RD 4 3 1
CD 3 0 .087NF
.ENDS
*$
.SUBCKT CIN 1 2 PARAMS: C = 0.33u ESR = 0.542 IC = 0
C 1 3 {C} IC = {IC} 
Resr 3 2 {ESR}
.ENDS
*$
.subckt LDCR 1 2 PARAMS: L = 100u IC = 0 DCR = 0.358
L 2 3 {L} IC = {IC}
RDCR 3 1 {DCR}
.ENDS 
*$
.SUBCKT Cload 2 4 PARAMS: IC=0
*FAMILY = ANALOG
*FAMILY = ANALOG
R1 2 3 0.0036
C1 3 1 4.698048442906574E-6 IC={IC}
R3 5 4 150; "free space" reduced by sqrt(dielectric constant)
R2 2 4 2.1285433987166873E8
R4 3 26 800000.0000000002
R6 3 7 800.0000000000002
C5 7 1 1.409414532871972E-7 IC={IC}
R7 3 10 80.00000000000001
C6 10 1 1.409414532871972E-7 IC={IC}
R8 3 13 8.000000000000002
C7 13 1 1.409414532871972E-7 IC={IC}
C2 26 1 1.409414532871972E-7 IC={IC}
R9 3 28 80000.00000000001
C3 28 1 1.409414532871972E-7 IC={IC}
R10 3 29 8000.000000000002
C4 29 1 1.409414532871972E-7 IC={IC}
L8 1 5 15p
R24 1 5 0.0108
L12 5 4 1n
.ENDS
*$
.subckt D1 A K
D1_1 A K myD55403
.MODEL myD55403 D ( IS=89.3U RS=42.2M BV=100 IBV=500N
+ CJO=66.3P  M=0.333 N=2.45 TT=7.20N )
.ENDS
*$