* C:\Users\ga92wum\git\UltraZohm\PCB\UZ_A_ltc2311-16\LTspice Simulations\schottky_dioge_neg_voltage.asc
V1 N001 0 -6.5
R1 N002 N001 20k
D1 0 N002 RB521CS-30
C1 N002 0 10e-6
I1 N003 0 PULSE(0e-3 5e-3 0.05 1e-9 0 2)
R2 N003 N002 10
.model D D
.lib \\nas.ads.mwn.de\ga92wum\Dokumente\LTspiceXVII\lib\cmp\standard.dio
.tran 0.1
.MODEL DI_SD103CWS D  ( IS=8.65u RS=0.120 BV=20.0 IBV=5.00u
+ CJO=53.0p  M=0.333 N=1.70 TT=14.4n )
.backanno
.end
