* C:\Users\ga92wum\git\UltraZohm\PCB\UZ_A_ltc2311-16\LTspice Simulations\AnalogLTC2311-16_with_THS4521\LTC2311_Rev04.asc
C1 P001 ADCP 10p
S1 ADCP V_ADCin+ SW_ACQ 0 mySW
C2 P002 ADCM 10p
S2 ADCM V_ADCin- SW_ACQ 0 mySW
S3 ADCP N004 SW_CNV 0 mySW
A1 SW_ACQ 0 0 0 0 SW_CNV 0 0 BUF
S4 ADCM N004 SW_CNV 0 mySW
V1 SW_ACQ 0 PULSE(0 1 171.5n 1n 1n 28.5n 5000n)
R1 V_outADCdriver N001 {Rop}
R2 V_outADCdriverInv N003 {Rop}
XADC1 N001 NC_06 5V V_outADCdriver V_outADCdriverInv 0 NC_07 N003 LTC6362
R3 V_ADCin+ V_outADCdriver 25
R4 V_ADCin- V_outADCdriverInv 25
C9 V_outADCdriverInv N003 {Cop}
C10 V_outADCdriver N001 {Cop}
R5 N003 Buffer+ {Rop}
R6 N001 Buffer- {Rop}
V4 5V 0 5
XU1 N002 Buffer- Buffer- 5V -Vs LT6202
XU2 N005 Buffer+ Buffer+ 5V -Vs LT6202
R7 N002 Vin- 50
R8 N005 Vin+ 50
C3 N002 0 100p
C4 N005 0 100p
V2 -Vs 0 -5
C5 V_ADCin+ V_ADCin- {Cdiff}
C11 0 V_ADCin+ {Ccm}
C12 V_ADCin- 0 {Ccm}
V3 Vin+ 0 4.8 AC 1
V5 Vin- 0 0.2
R9 N004 P001 15
R10 P002 N004 15
.model mySw SW(Ron=15 Vt=0.5)
* SAR ADC input ADC 2 LTC2311 16 Bit 5 MSPS
.tran 0 0.00001 0 0.000000001
.param Rop=1k
.param Cop=56p
.param Rfilt=1k Ccm=470p Cdiff=47p
.lib LTC2.LIB
.lib LTC7.lib
.backanno
.end
